US05081123
100 ml 100% nitric acid was cooled to 0° C. and 1.0 g (3.1 mmol) 5-Bromo-8-ethoxalylaminoquinoline was added gradually. The reaction mixture was stirred at 25° C. for 1/2 h and then poured into 150 ml ice-water. The precipitate was filtered off, washed with water and ethanol to give 1.0 g (88%) of 5-Bromo-8-ethoxalylamino-7-nitroquinoline. M.p. 213°-215° C.

reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
reactant | 5-Bromo-8-ethoxalylaminoquinoline | 3.1 mmol, 1.0 g | BrC1=C2C=CC=NC2=C(C=C1)NC(=O)C(=O)OCC | C13H11BrN2O3
product | 5-Bromo-8-ethoxalylamino-7-nitroquinoline | 1.0 g, 88% | BrC1=C2C=CC=NC2=C(C(=C1)[N+](=O)[O-])NC(=O)C(=O)OCC | C13H10BrN3O5
